US03937718
Caproic acid benzyl ester
To a mixture of 1.08 g. of benzylalcohol, 1.16 g. of caproic acid, 2.20 g. of 2,2'-dipyridyl disulfide and 50 ml. of methylene chloride is added dropwise a solution of 2.62 g. of triphenyl phosphine in 20 ml. of methylene chloride while stirring at room temperature. After completion of the addition, the mixture is stirred at room temperature for an additional 3 hours. The reaction mixture is treated with the same procedure as in Example 1 (1) to give 1.9 g. of the desired product boiling at 75°C/0.2 mmHg.

reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | caproic acid | C(CCCCC)(=O)O | C6H12O2
reactant | 2,2'-dipyridyl disulfide | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Caproic acid benzyl ester | C(C1=CC=CC=C1)OC(CCCCC)=O | C13H18O2
